US05807887
To a solution of 3 g of benzo[b]thiophene-5-carbaldehyde in 30 ml of acetic acid is dropwise added 1.43 ml of bromine with ice-cooling. The temperature of the reaction mixture is elevated to room temperature, at which temperature the mixture is stirred for three hours. After the reaction, 50 ml of water and 50 ml of ethyl acetate are added to the thus stirred reaction mixture, and the resulting organic layer was separated, washed successively with water, a saturated aqueous sodium hydrogencarbonate solution and a saturated saline solution and then dried over anhydrous magnesium sulfate. Thereafter, the solvent is removed from the thus dried layer by distillation under reduced pressure. The residue obtained is purified by a moderate pressure column chromatography [eluent :hexane:ethyl acetate=20:1], to obtain 4.2 g of 3-bromobenzo[b]thiophene-5-carbaldehyde.

reactant | benzo[b]thiophene-5-carbaldehyde | 3 g | S1C2=C(C=C1)C=C(C=C2)C=O | C9H6OS
reactant | bromine | 1.43 ml | BrBr | Br2
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-bromobenzo[b]thiophene-5-carbaldehyde | 4.2 g | BrC=1C2=C(SC1)C=CC(=C2)C=O | C9H5BrOS
